US04584295
4-Chloromethyl-6-hydroxy-2-methylthio-pyrimidine [known from S. Cohen et al., J.Org. Chem. 27, 3545-3549 (1962)] is treated with diethyl sulphate analogously to the process described in Example 59 in order to produce 6-ethoxy-4-chloromethyl-2-methylthio-pyrimidine which is required as the starting material in Example 19. M.p. (after crystallization from water) 167°-171° C.; 1H-NMR (CDCl3): 1.40 (t, CH3) 2.56 (s, SCH3), 4.45 (q, CH2), 4.47 (s, CH2Cl), 6.55 (s, CH).

reactant | 4-Chloromethyl-6-hydroxy-2-methylthio-pyrimidine | ClCC1=NC(=NC(=C1)O)SC | C6H7ClN2OS
reactant | diethyl sulphate | S(=O)(=O)(OCC)OCC | C4H10O4S
product | 6-ethoxy-4-chloromethyl-2-methylthio-pyrimidine | C(C)OC1=CC(=NC(=N1)SC)CCl | C8H11ClN2OS
